US05856500
Famotidine is a well-known histamine H2-receptor antagonist and gastric acid secretion inhibitor. A key intermediate for the preparation of this compound is N-[4-(cyanoethylthiomethyl)-2-thiazolyl]guanidine (also known as N-[4-[[(2-cyanoethyl)-thio]methyl]-2-thiazoyl]guanidine). To prepare this intermediate U.S. Pat. Nos. 4,562,261 and 4,609,737 describe a route based on N-[4-(chloromethyl)-4,5-dihydro-4-hydroxy-2-thiazolyl]-guanidine hydrochloride as the starting material. The synthesis involves preparing this starting material by portionwise addition of (aminoiminomethyl)thiourea to dichloroacetone in acetone at temperatures of about -5° to -7° C. and stirring the resultant mixture for 5 days at below 0° C. The resultant N-[4-(chloromethyl)-4,5-dihydro-4-hydroxy-2-thiazolyl]-guanidine hydrochloride is isolated, purified and converted to N-[4-[[(2-aminoiminomethyl)thio]methyl]-2-thiazoyl]guanidine) dihydrochloride by reaction with thiourea. Without isolating this intermediate, the reaction mixture is cooled below 10° C. and to the solution are added 3-chloropropionitrile and isopropyl alcohol, followed by dropwise addition of aqueous NaOH whereby crystals of N-[4-(cyanoethylthiomethyl)-2-thiazolyl]guanidine are formed.

reactant | Famotidine | C1=C(N=C(S1)NC(=N)N)CSCCC(=N)NS(=O)(=O)N | C8H15N7O2S3
reactant | histamine H2 | NCCC1=CNC=N1.[H][H]
reactant | N-[4-(cyanoethylthiomethyl)-2-thiazolyl]guanidine | C(#N)CCSCC=1N=C(SC1)NC(=N)N | C8H11N5S2
reactant | (aminoiminomethyl)thiourea | NN=CNC(=S)N | C2H6N4S
reactant | dichloroacetone | ClC(C(C)=O)Cl | C3H4Cl2O
solvent | acetone | CC(=O)C | C3H6O
product | N-[4-(chloromethyl)-4,5-dihydro-4-hydroxy-2-thiazolyl]-guanidine hydrochloride | Cl.ClCC1(N=C(SC1)NC(=N)N)O | InChI=1S/C5H9ClN4OS.ClH/c6-1-5(11)2-12-4(10-5)9-3(7)8;/h11H,1-2H2,(H4,7,8,9,10);1H
